US05216174
To a solution of (±)-cis-6-(cyanomethyl)-2,2-dimethyl-1,3-dioxane-4-acetic acid, 0.6 g (3 mmol), in acetonitrile, 2 mL, is added 1,8-diazabicyclo5.4.0]-undec-7-ene (DBU), 0.45 mL (3 mmol), and 2-iodopropane, 0.33 mL (3.3 mmol). The solution is stirred overnight at room temperature, diluted with diethyl ether, washed with brine, and dried (magnesium sulfate). Flash chromatography provides 0.55 g of (±)-cis-1-methylethyl 6-(cyanomethyl)-2,2-dimethyl-1,3-dioxane4-acetate.

reactant | (±)-cis-6-(cyanomethyl)-2,2-dimethyl-1,3-dioxane-4-acetic acid | C(#N)C[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)O | C10H15NO4
reactant | undec-7-ene | CCCCCCC=CCCC | C11H22
reactant | 2-iodopropane | IC(C)C | C3H7I
solvent | acetonitrile | C(C)#N | C2H3N
solvent | diethyl ether | C(C)OCC | C4H10O
product | (±)-cis-1-methylethyl 6-(cyanomethyl)-2,2-dimethyl-1,3-dioxane4-acetate | 0.55 g | C(#N)C[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)OC(C)C | C13H21NO4
